US09371280B2
In a manner similar to the method described in Example 14, 4-((2R,3S,4R,5S)-3-(3-chloro-2-fluorophenyl)-4-(4-chloro-2-fluorophenyl)-4-cyano-5-neopentylpyrrolidine-2-carboxamido)-3-methoxybenzoic acid (prepared as described in US20100152190A1) was reacted with (2S,3R,4R,5S,6R)-3-amino-6-(hydroxymethyl)tetrahydro-2H-pyran-2,4,5-triol hydrochloride to give (2R,3S,4R,5S)-4-(4-chloro-2-fluoro-phenyl)-3-(3-chloro-2-fluoro-phenyl)-4-cyano-5-(2,2-dimethyl-propyl)-pyrrolidine-2-carboxylic acid [2-methoxy-4-((2S,3R,4R,5S,6R)-2,4,5-trihydroxy-6-hydroxymethyl-tetrahydro-pyran-3-ylcarbamoyl)-phenyl]-amide, hydrochloride. MS (ES+) m/z calcd. for C37H41Cl2F2N4O8: [(M+H)+]777. found: 777.

reactant | 4-((2R,3S,4R,5S)-3-(3-chloro-2-fluorophenyl)-4-(4-chloro-2-fluorophenyl)-4-cyano-5-neopentylpyrrolidine-2-carboxamido)-3-methoxybenzoic acid | ClC=1C(=C(C=CC1)[C@H]1[C@@H](N[C@H]([C@]1(C#N)C1=C(C=C(C=C1)Cl)F)CC(C)(C)C)C(=O)NC1=C(C=C(C(=O)O)C=C1)OC)F | C31H29Cl2F2N3O4
reactant | (2S,3R,4R,5S,6R)-3-amino-6-(hydroxymethyl)tetrahydro-2H-pyran-2,4,5-triol hydrochloride | Cl.N[C@H]1[C@H](O[C@@H]([C@H]([C@@H]1O)O)CO)O
product | (2R,3S,4R,5S)-4-(4-chloro-2-fluoro-phenyl)-3-(3-chloro-2-fluoro-phenyl)-4-cyano-5-(2,2-dimethyl-propyl)-pyrrolidine-2-carboxylic acid [2-methoxy-4-((2S,3R,4R,5S,6R)-2,4,5-trihydroxy-6-hydroxymethyl-tetrahydro-pyran-3-ylcarbamoyl)-phenyl]-amide, hydrochloride | Cl.COC1=C(C=CC(=C1)C(N[C@H]1[C@H](O[C@@H]([C@H]([C@@H]1O)O)CO)O)=O)NC(=O)[C@@H]1N[C@H]([C@]([C@H]1C1=C(C(=CC=C1)Cl)F)(C#N)C1=C(C=C(C=C1)Cl)F)CC(C)(C)C | InChI=1S/C37H40Cl2F2N4O8.ClH/c1-36(2,3)14-26-37(16-42,20-10-9-18(38)13-22(20)40)27(19-6-5-7-21(39)28(19)41)29(44-26)34(50)43-23-11-8-17(12-24(23)52-4)33(49)45-30-32(48)31(47)25(15-46)53-35(30)51;/h5-13,25-27,29-32,35,44,46-48,51H,14-15H2,1-4H3,(H,43,50)(H,45,49);1H/t25-,26+,27+,29-,30-,31-,32-,35+,37+;/m1./s1
